US04363816
Ethyl 3-(2-aminophenyl)amino-1,5-dimethyl-1H-pyrrole-2-carboxylate
A catalytic amount of palladium-on-charcoal is added to a solution of 3.0 g (0.01 mole) of ethyl 1,5-dimethyl-3-(2-nitrophenyl)amino-1H-pyrrole-2-carboxylate in 50 ml of ethyl acetate, and the mixture is hydrogenated (in a circulatory hydrogenation apparatus under a slightly elevated pressure at room temperature) until the theoretical amount of hydrogen has been absorbed. After the catalyst has been filtered off, the filtrate is concentrated in vacuo, and the crystalline residue is recrystallized from a little isopropanol. Yield: 2.1 g.

reactant | ethyl 1,5-dimethyl-3-(2-nitrophenyl)amino-1H-pyrrole-2-carboxylate | 0.01 mole, 3.0 g | CN1C(=C(C=C1C)NC1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC | C15H17N3O4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-charcoal | [Pd] | Pd
product | Ethyl 3-(2-aminophenyl)amino-1,5-dimethyl-1H-pyrrole-2-carboxylate | NC1=C(C=CC=C1)NC1=C(N(C(=C1)C)C)C(=O)OCC | C15H19N3O2
